US04999356
A stirred mixture of 5.5 g of 3-(1-piperazinyl)-1-[4(trifluoromethyl)phenyl]-1H-indazole hydrochloride, 2.3 g of bromoethanol, 2.5 g of potassium carbonate and 60 ml of dimethylformamide was heated, under nitrogen, at 70°-75° for 16 hours. The reaction mixture was poured into water and the aqueous mixture extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated to an oil. The oil was chromatographed on silica gel utilizing a Water's Model 500 High Pressure Liquid Chromatograph and eluting with dichloromethane/methanol (6%). Evaporation of the appropriate fractions gave an oil which solidified upon standing. Recrystallization of the solid from hexane (2×) gave 2.5 g (40%) of 3-[4-(2-hydroxyethyl)-1piperazinyl-]-1-[4-(trifluoromethyl)phenyl]-1H-indazole, mp 82°-84°.

reactant | 3-(1-piperazinyl)-1-[4(trifluoromethyl)phenyl]-1H-indazole hydrochloride | 5.5 g | Cl.N1(CCNCC1)C1=NN(C2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F
reactant | bromoethanol | 2.3 g | BrC(C)O | C2H5BrO
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[4-(2-hydroxyethyl)-1piperazinyl-]-1-[4-(trifluoromethyl)phenyl]-1H-indazole | 2.5 g, 40% | OCCN1CCN(CC1)C1=NN(C2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F | C20H21F3N4O
